US04499103
To ammonium hydroxide (14.8 M) (215 ml) were added dropwise simultaneously sodium hypochlorite solution (5.25%) (101 ml) and a solution of sodium hydroxide (2.75 g, 0.069 mole) and 6-(N-ethoxycarbonylamino)-2-mercaptobenzothiazole (17.50 g, 0.069 mole) in H2O (187 ml) with stirring at 5° C. After 1/2 hour the precipitated solid was collected by suction filtration and washed well with ice-H2O. The wet solid was suspended in acetone (284 ml) and treated dropwise with a solution of potassium permanganate (15.13 g, 0.092 mole) in H2O (284 ml) over an hour period maintaining the reaction temperature at 30° C. After stirring for an additional hour, the mixture was filtered to remove manganese dioxide, and the filtrate acidified with 12N HCl to precipitate the solid product. Chromatography on a silica gel column eluting with EtOAc:hexane (50:50 v/v) followed by crystallization from ethanol gave 500 mg of 6-(N-ethoxycarbonylamino)-2-benzothiazolesulfonamide, m.p. 223°- 224° C.

reactant | ammonium hydroxide | 14.8 M, 215 ml | [OH-].[NH4+]
reactant | sodium hypochlorite | 101 ml | Cl[O-].[Na+]
reactant | sodium hydroxide | 0.069 mole, 2.75 g | [OH-].[Na+]
reactant | 6-(N-ethoxycarbonylamino)-2-mercaptobenzothiazole | 0.069 mole, 17.50 g | C(C)OC(=O)NC1=CC2=C(N=C(S2)S)C=C1 | C10H10N2O2S2
reactant | potassium permanganate | 0.092 mole, 15.13 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | H2O | 187 ml | O | H2O
solvent | H2O | 284 ml | O | H2O
product | 6-(N-ethoxycarbonylamino)-2-benzothiazolesulfonamide | 500 mg | C(C)OC(=O)NC1=CC2=C(N=C(S2)S(=O)(=O)N)C=C1 | C10H11N3O4S2
